US06054445
4-Allyl-1-[(3,4-dichlorophenyl)acetyl]-2-(R)-[(1-pyrrolidinyl)methyl]piperazine hydrochloride
The compound was prepared by coupling of allyl bromide with 1-[(3,4-dichlorophenyl)acetyl]-2-(R)-[(1-pyrrolidinyl)methyl]piperazine in 81% yield; mp: (HCl salt) 157-160° C.; 1H NMR (free base, 200 MHz, CDCl3) δ1.4-2.0 (6 H, m), 2.3-3.0 (6 H, m), 3.1-3.8 (4 H, m), 4.3-4.8 (1 H, m), 4.9-5.1 (2 H, m), 5.7-5.9 (1 H, m), 7.0-7.3 (3 H, m); MS (FAB) 396 (M+H)+ ; Anal. Calcd for C20H27Cl2N3O.2HCl: C, 51.19; H, 6.23; N, 8.95. Found: C, 50.89; H, 6.42; N, 8.65.

reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | 1-[(3,4-dichlorophenyl)acetyl]-2-(R)-[(1-pyrrolidinyl)methyl]piperazine | ClC=1C=C(C=CC1Cl)CC(=O)N1[C@H](CNCC1)CN1CCCC1 | C17H23Cl2N3O
reactant | HCl | Cl | ClH
product | 4-Allyl-1-[(3,4-dichlorophenyl)acetyl]-2-(R)-[(1-pyrrolidinyl)methyl]piperazine hydrochloride | 81% yield | Cl.C(C=C)N1C[C@H](N(CC1)C(CC1=CC(=C(C=C1)Cl)Cl)=O)CN1CCCC1 | InChI=1S/C20H27Cl2N3O.ClH/c1-2-7-23-10-11-25(17(14-23)15-24-8-3-4-9-24)20(26)13-16-5-6-18(21)19(22)12-16;/h2,5-6,12,17H,1,3-4,7-11,13-15H2;1H/t17-;/m0./s1
